US07638517B2
To a RT suspension of 3-(4-methoxy-1H-pyrrolo[2,3-b]pyridin-3-yl)-3-phenyl-propionic acid (635 mg, 2.14 mmol) in DCM (20 mL) was added TEA (0.45 mL, 3.21 mmol). To this mixture was added PyBOP (1.22 g, 2.35 mmol) and MeNH2 (2 M in THF, 1.60 mL, 3.21 mmol). The resulting mixture was stirred at RT for 30 min, and the white precipitate was collected by filtration to afford 3-(4-Methoxy-1H-pyrrolo[2,3-b]pyridin-3-yl)-N-methyl-3-phenyl-propionamide in 72% yield (477 mg).

reactant | 3-(4-methoxy-1H-pyrrolo[2,3-b]pyridin-3-yl)-3-phenyl-propionic acid | 2.14 mmol, 635 mg | COC1=C2C(=NC=C1)NC=C2C(CC(=O)O)C2=CC=CC=C2 | C17H16N2O3
reactant | PyBOP | 2.35 mmol, 1.22 g | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)ON4C5=C(C=CC=C5)N=N4.F[P-](F)(F)(F)(F)F
reactant | MeNH2 | 3.21 mmol, 2 M, 1.60 mL | CN | CH5N
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
product | 3-(4-Methoxy-1H-pyrrolo[2,3-b]pyridin-3-yl)-N-methyl-3-phenyl-propionamide | 72% yield | COC1=C2C(=NC=C1)NC=C2C(CC(=O)NC)C2=CC=CC=C2 | C18H19N3O2
